US07381719B2
5-{2-Chloro-4-[(2-pyridin-3-ylethylamino)methyl]phenoxy}pyridine-2-carboxamide
Using a method similar to Example 405, using 5-(2-chloro-4-formylphenoxy)pyridine-2-carboxamide (0.0388 g, 0.140 mmol) and 2-(pyridin-3-yl)ethylamine (0.017 g, 0.140 mmol) gives the title compound (0.0490 g, 91.2%): TOF MS ES+ 383.1 (M+H)+, HRMS calcd for C20H20N4O2Cl 383.1275 (M+H)+, found 383.1248, time 0.39 min; Anal. Calcd for C20H19ClN4O2.0.1CH2Cl2: C, 61.90; H, 5.06; N, 14.38. Found: C. 61.90; H, 5.06; N, 14.38.

reactant | 5-(2-chloro-4-formylphenoxy)pyridine-2-carboxamide | 0.140 mmol, 0.0388 g | ClC1=C(OC=2C=CC(=NC2)C(=O)N)C=CC(=C1)C=O | C13H9ClN2O3
reactant | 2-(pyridin-3-yl)ethylamine | 0.140 mmol, 0.017 g | N1=CC(=CC=C1)CCN | C7H10N2
product | 5-{2-Chloro-4-[(2-pyridin-3-ylethylamino)methyl]phenoxy}pyridine-2-carboxamide | 0.0490 g, 91.2% | ClC1=C(OC=2C=CC(=NC2)C(=O)N)C=CC(=C1)CNCCC=1C=NC=CC1 | C20H19ClN4O2
